US08071588B2
A mixture of 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid (1.110 g, 2.75 mmol), 1-(3-bromo-4-methylphenyl)methanamine (0.600 g, 3.00 mmol), HATU (1.331 g, 3.5 mmol) and triethylamine (0.976 ml, 7.0 mmol) in dichloromethane (35 mL) was stirred at room temperature under N2. The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with DCM and washed with saturated NaHCO3, followed by saturated NaCl. The organic layer was dried over Na2SO4, and then evaporated to dryness which gave, initially, a glassy gum, but then appeared to very slowly crystallize. The residue was taken up in a small amount of MeOH and sonicated whereupon a crystalline white solid formed and was collected and dried to give N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (1.16 g, 72%). LC-MS m/z 585.4 (M+H)+, 0.87 min (ret time).

reactant | 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid | 2.75 mmol, 1.110 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)O)=O)CC | C20H29N5O4
reactant | 1-(3-bromo-4-methylphenyl)methanamine | 3.00 mmol, 0.600 g | BrC=1C=C(C=CC1C)CN | C8H10BrN
reactant | HATU | 3.5 mmol, 1.331 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 7.0 mmol, 0.976 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 1.16 g, 72% | BrC=1C=C(C=CC1C)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C28H37BrN6O3
